US05786367
10.2 Grams of 6-allyloxy-2(1H)-quinolinone was dissolved in 100 ml of dimethylformamide, then 2.2 g of 60% oily sodium hydride and 9.1 g of prenyl bromide were added thereto by the procedures similar to those employed in Reference example 7 and reacted. Then, thus obtained reaction mixture was treated and oily mixture was obtained. This mixture was subjected to separation and refining by means of a silica gel flush column chromatography in which a mixture of ethyl acetate:n-hexane (1:10 to 1:2) was used as an eluent. Colorless to light yellow oily product, which was obtained by concentrating the second eluate portion under reduced pressure, was allowed to stand at room temperature, then it was crystallized. There was obtained 4.7 g (34.9%) of 6-allyloxy-2-prenyloxy-quinoline by recrystallization from n-hexane. Colorless needle-like crystals (recrystallized from n-hexane)

reactant | 6-allyloxy-2(1H)-quinolinone | C(C=C)OC=1C=C2C=CC(NC2=CC1)=O | C12H11NO2
reactant | sodium hydride | 2.2 g | [H-].[Na+]
reactant | prenyl bromide | 9.1 g | C(C=C(C)C)Br | C5H9Br
solvent | dimethylformamide | 100 ml | CN(C=O)C | C3H7NO
product | 6-allyloxy-2-prenyloxy-quinoline | 4.7 g, 34.9% | C(C=C)OC=1C=C2C=CC(=NC2=CC1)OCC=C(C)C | C17H19NO2
